Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Groin pain
 
Major Surgical or Invasive Procedure:
___ placement ___

 
History of Present Illness:
Mr. ___ is a ___ gentleman with a history of JAK2 
positive essential thrombocythemia and prostate cancer s/p 
radical prostatectomy in ___ c/b erectile dysfunction. He 
underwent penile prosthesis in ___ and has had a complicated 
course with multiple prosthesis infections. He presents with 
worsening R groin/perineal pain and leukocytosis.  

Patient's penile implant was originally placed in ___ for 
erectile dysfunction. In ___, patient developed 
infection that did not improve with PO Augmentin. He was 
admitted on ___ with worsening penile and scrotal swelling 
concerning for infected device, and he underwent wash-out and 
replacement of prosthesis on ___. Surgical culture grew 
pseudomonas. He remained febrile post op and his pre-op 
antibiotic regimen was changed from vancomycin-gentamycin to 
vancomycin and cefepime. He subsquently had the prosthesis fully 
removed on ___ and defervesced. His antibiotic regimen was 
narrowed to cefepime. PICC line was placed, and he was 
discharged with plans for ___ week course IV Cefepime. 
 
On ___, patient represented to the ED with ___ days groin and 
testicular pain. CT showed gas formation in peineal area. He was 
taken emergently to the OR on ___ for exploration of perineum 
with no evidence of active infection intraoperatively. He was 
initially covered with vancomycin and meropenem, then was 
transitioned back to cefepime with addition of metronidazole for 
anaerobic coverage on ___. Planned for ___ week course.  

On ___, patient was transitioned to PO cipro/flagyl. PICC 
was pulled. Antibiotics were stopped on ___ in the setting of 
possible antibiotic-associated diarrhea and improvement in exam. 
Diarrhea resolved.  

Over the past week, patient has had worsening R groin and 
perineal pain. He has needed to take oxycodone at night due to 
pain after weaning himself off one week prior. Pain worse 
movement, making walking difficult. Minimal increase in scrotal 
erythema. 2x packing areas changed daily, no issues with that. 
Endorses increased fatigue, denies fevers/chills, N/V/D. Saw PMD 
earlier this week, had CBC which showed WBC 20k. Of note, pt 
recently decreased hyydroxyurea for polycythemia.  

In the ED initial vitals were: 4 98.7 66 113/74 18 100% RA. Labs 
were significant for WBC 19 (86N, 0 band, 8L), H/H 13.9/39.1, 
plt 767. Cr 0.7. UA 23 WBC (chronic condom cath). CT Pel showed 
subcutaneous stranding and skin thickening in perineum and 
inferior medial gluteal regions and scrotum. Small collection of 
sub-q gas in L medal gluteal region substantially decreased from 
previous exam, may reflect packing material. No fluid 
collections.  
Urology was consulted, who did not feel there was an operative 
issue. Advised gen surg consult (they were involved in prior 
debridement), IV antibiotics, ID consult. General surgery agreed 
there was no indication for further I &D. Patient was given 
oxycodone, docusate, metronidazole, cefepime. Vitals prior to 
transfer were: 2 98.3 57 127/69 16 99% RA.  

On the floor, patient reports ongoing perineal pain R > L and 
posterior scrotal pain.
 
Past Medical History:
Insertion Penile prosthesis, ___
Removal and replacment of infected penile prosthesis ___
Explant of replacement prosthesis ___

JAK2 positive Essential Thrombocythemia, followed by Dr ___ at ___
Essential thrombocytosis. 
Exercise-induced asthma 
Radiation therapy for acne in his youth resulting in 
hypothyroidism.
Hydrocele repair by Dr. ___ in early ___.  
Cholecystectomy.
Inguinal hernia repair.

 
Social History:
___
Family History:
His father had prostate cancer and lived well into his ___.

 
Physical Exam:
ADMISSION EXAM:
97.8 133/78 61 18 98RA UOP 900 o/n
GENERAL: Well-appearing, NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
GU: Tender inguinal LAD bilaterally. Packing in place, no 
significant erythema surrounding wounds, no drainage, R perineal 
region and upper thigh TTP with very mild erythema but no 
collections, fluctuance, drainage. Posterior scrotum TTP L < R 
without palpable testicular masses, condom cath in place  
Rectal: Thrombosed external hemorrhoid at 6 o'clock  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose. Prior ___ site in RUE has 0.5 cm 
nodule with mild erythema at insertion site but appears to be 
healing well, no tenderness, phlebitis.  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE EXAM:
97.5 97.9 135/75 77 18 98RA
GENERAL: Well-appearing, NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
GU: Packing in place, no significant erythema surrounding 
wounds, no drainage, R perineal region and upper thigh TTP with 
very mild erythema but no collections, fluctuance, drainage. 
Posterior scrotum TTP L < R without palpable testicular masses, 
condom cath in place  
Rectal: Thrombosed external hemorrhoid at 6 o'clock  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose. Prior ___ site in RUE has 0.5 cm 
nodule with mild erythema at insertion site but appears to be 
healing well, no tenderness, phlebitis.  
Negative ipsilateral/contralateral straight leg raise
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

 
Pertinent Results:
LABORATORY DATA:

___ 05:30PM BLOOD WBC-19.0*# RBC-4.00*# Hgb-13.9*# 
Hct-39.1*# MCV-98# MCH-34.6* MCHC-35.7* RDW-15.2 Plt ___
___ 06:02AM BLOOD WBC-14.6* RBC-3.94* Hgb-12.9* Hct-38.0* 
MCV-97 MCH-32.8* MCHC-34.0 RDW-15.9* Plt ___
___ 05:30PM BLOOD Neuts-86* Bands-0 Lymphs-8* Monos-4 Eos-2 
Baso-0 ___ Myelos-0
___ 05:30PM BLOOD Glucose-120* UreaN-18 Creat-0.7 Na-135 
K-4.7 Cl-98 HCO3-27 AnGap-15
___ 06:02AM BLOOD Glucose-94 UreaN-13 Creat-0.6 Na-138 
K-4.8 Cl-101 HCO3-28 AnGap-14
___ 06:15AM BLOOD Calcium-9.2 Phos-3.6 Mg-2.1
___ 06:27AM BLOOD CRP-50.4*
___ 06:02AM BLOOD Vanco-12.3
___ 05:40PM BLOOD Lactate-1.2

___ 06:27
SED RATE
Test Name                   In Range   Out of Range        
Reference Range
---------                   --------   ------------        
--------------Sed Rate by Modified
  ___                               23  H           < or 
= 20 mm/h
 

IMAGING:  
___  
CT Abd/Pel w Contrast  
1. Subcutaneous stranding and skin thickening involving the 
perineum and inferior medial gluteal regions as well as scrotum. 
Small collection of subcutaneous gas in the left medial gluteal 
region is substantially decreased from the previous exam, and 
may reflect packing material. No fluid collections.  
2. Bilateral hydroceles are improved.  
3. Reactive right inguinal lymphadenopathy.  

___
MRI pelvis w and wo contrast:
1. Edema and enhancement throughout the right adductor 
musculature and right aspect of the pelvic floor/perineum, may 
reflect a nonspecific myositis and may be 
infectious/inflammatory in nature although recent trauma could 
result in a similar imaging appearance; clinical correlation is 
recommended. Although adjacent edema within the right inferior 
pubic ramus potentially could be due to osteomyelitis, the 
absence of associated cortical erosion argues against this.  The 
changes are asymmetric and likely somewhat remote from a 
radiation field. 
2. Moderate subcutaneous edema along the right inguinal region, 
extending along the anteroinferior aspect of the pelvis, 
nonspecific in nature. Clinical correlation with evidence of 
cellulitis is recommended. 
3. Unchanged right inguinal lymphadenopathy, presumably 
reactive. 

___ 
L spine pelvis w and wo contrast:
1. No evidence of osteomyelitis or epidural abscess within the 
lumbar spine. 
2. Multilevel multifactorial degenerative changes throughout the 
lumbar spine, as described above. 

___
CT pelvis w/o contrast:
1. Indistinctness of the inferomedial cortex along the anterior 
aspect of the right inferior pubic ramus, corresponding to the 
area of marrow edema on the recent pelvis MRI, indeterminate in 
nature.  The possibly of osteomyelitis cannot be conclusively 
excluded.  No fracture line identified. 
2. Circumferential bladder wall thickening may be related to 
bladder's decompressed state; clinical correlation is 
recommended to exclude cystitis. 
3. Right inguinal lymphadenopathy, similar to the prior MRI from 
___. 

___
CXR line placement:
New left-sided PICC line ends in the low SVC. 

 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with a history of prostate 
cancer JAK2 positive essential thrombocythemia and prostate 
cancer s/p radical prostatectomy in ___ c/b erectile 
dysfunction. He underwent penile prosthesis in ___ and has had 
a complicated course with multiple prosthesis infections. He 
presents with worsening R groin/perineal pain and leukocytosis 
in the setting of recent antibiotic cessation.

# Osteomyelitis / groin soft tissue infection:
He had perineal pain and leukocytosis concerning for recurrent 
infection in the setting of multiple previous infections after 
radical prostatectomy and penile implant. No abscess or fluid 
collection seen on CT. He was evaluated by urology and general 
surgery who determined no acute surgical intervention was 
needed. He was followed by wound care for management of his 
surgical dressings. MRI and CT showed concern for osteomyeltis 
of the pubic ramus vs small fracture. A bone biopsy was 
considered but deferred given the technical difficulty of the 
procedure and risk for complications. He had PICC placement with 
plan for vancomycin/cefepime/Flagyl for a total 6 week course 
for presumptive osteomyelitis.

CHRONIC ISSUES:
# Essential Thrombocytosis: 
His platelet count was near baseline. There was suspicion for 
additional marrow dysplasia given increase in all 3 hematogenous 
cell lines during admission. He was titrated back to his 
previous home dose of 1000 mg hydroxyurea alternating with 
1500mg daily per ___ hematology recommendations.

# Thrombosed External Hemorrhoid:
Previously on steroid creams. He was given Hydrocortisone 
(Rectal) BID during admission.

# Depression: Continued citalopram  

# Constipation: Received Senna / Colace as needed.

TRANSITION ISSUES:
- His hydroxyurea for essential thrombocytosis was restored to 
daily alternating doses of 1gm / 1.5 gm.
- He will need to complete a 6 week course of 
vancomycin/cefepime/flagyl for presumptive osteomyelitis (last 
day of therapy ___.

## Additional Transitional Issues per Previous Urology Notes:
- Pelvic floor ___ to address incontinence  
- When scrotal incision closed, d/c condom cath  
- Consider re-implant of prosthesis after 6 months and urinary 
issues resolved
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 40 mg PO DAILY 
2. Senna 8.6 mg PO DAILY 
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
4. Aspirin 81 mg PO DAILY 
5. Hydroxyurea 500 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Citalopram 40 mg PO DAILY 
3. Hydroxyurea 0 mg PO DAILY 
Take 1000mg alternating with 1500mg every other day 
RX *hydroxyurea 500 mg as directed capsule(s) by mouth Once a 
day Disp #*45 Capsule Refills:*0
4. Multivitamins 1 TAB PO DAILY 
5. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
6. Senna 8.6 mg PO DAILY 
7. CefePIME 2 g IV Q12H 
RX *cefepime [Maxipime] 2 gram 2 grams IV Every 12 hours Disp 
#*81 Vial Refills:*0
8. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth Twice 
a day Disp #*60 Capsule Refills:*0
9. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth Every 8 hours Disp 
#*123 Tablet Refills:*0
10. Outpatient Lab Work
Please check weekly starting ___: CBC with differential, BUN, 
Cr, ESR, CRP, Vancomycin trough (730.00)
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___
11. Vancomycin 1250 mg IV Q 12H 
RX *vancomycin 500 mg 2.5 vials IV Every 12 hours Disp #*205 
Vial Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Likely osteomyelitis

SECONDARY DIAGNOSIS:
Essential thrombocytosis
Thrombosed external hemorrhoid

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure being part of your care at ___. You were 
admitted to the hospital due to groin pain. You were found to 
have elevated white blood cell count concerning for an 
infection, given your history of multiple groin infections after 
your surgery. You had scans (MRI and CT) of the affected area 
which were concerning for possible infection of the bone and 
soft tissues. You were treated with antibiotics with some 
subsequent improvement in your pain.

After discharge, please continue to take your IV antibiotics as 
instructed.
 
Followup Instructions:
___